US07973169B2
37) N-(4,5-Diphenyl-thiazol-2-yl)-benzamide
4,5-Diphenyl-thiazol-2-ylamine (50.5 mg, 0.200 mmol) and benzoyl chloride (28.1 mg, 0.200 mmol) were dissolved in 1,4-dioxane (2 mL) containing triethylamine (84.1 μL, 0.600 mmol). The reaction mixture was subjected to microwave irradiation for 5 minutes at 200° C. The crude product was filtered, evaporated to dryness, dissolved in 1 mL of dimethylsulfoxide and purified by reverse-phase preparative liquid chromatography (7.21 mg, 0.0202 mmol, 10.1%). ESI-MS m/z calc. 356.1, found 357.2 (M+1)+ Retention time 3.95 minutes.

reactant | 4,5-Diphenyl-thiazol-2-ylamine | 0.200 mmol, 50.5 mg | C1(=CC=CC=C1)C=1N=C(SC1C1=CC=CC=C1)N | C15H12N2S
reactant | benzoyl chloride | 0.200 mmol, 28.1 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(4,5-Diphenyl-thiazol-2-yl)-benzamide | C1(=CC=CC=C1)C=1N=C(SC1C1=CC=CC=C1)NC(C1=CC=CC=C1)=O | C22H16N2OS
